US06514968B1
Preparation 3 9-Benzyl-9H-carbazol-4-ol
To a mixture of 9-Benzyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (3.89 g, 14.13 mmol), THF (20 mL) in THF (20 mL) and DMF (15 mL) is added pyridinium hydrobromide perbromide (5.42 g, 16.96 mmol) as a solution in DMF (5 mL). After stirring for 5 h at room temperature, TLC (EtOAc-hexane, 20/80) showed little or no reaction had occurred, so the mixture is stirred at 70° C. for 4 h and then allowed to cool (and stir the remainder of the night). The solvents then are removed and the residue is partitioned between Et2O and brine, dil. Na2S2O3, and brine. The aqueous layer is removed and CH2Cl2 is added to the organic layer (from which solids had begun to precipitate). The organic layers are dried over MgSO4 and taken to dryness. Without further purification, the crude product is stirred with LiBr (2.67 g, 31 mmol) and Li2CO3 (2.07 g, 28 mmol) in DMF (50 mL) at 100° C. for 45 min, and then at reflux for 3 h. After cooling, the solvent is removed and the residue is partitioned between CH2Cl2 and water. The organic layers are dried over sodium sulfate and concentrated to dryness. The residue is chromatographed on silica gel (250 mL) using EtOAc-heptane (15/85)/CH2Cl2 (6:1) as eluent to give 2.78 g of solid; mp 119-121.5° C.; IR (drift) 3353, 1602, 1485, 1458, 1337, 1328, 1279, 1230, 1138, 1104, 780, 748, 735, 714, 700 cm−1; 1H NMR (CDCl3) δ5.32, 5.50, 6.60, 6.97, 7.14, 7.26, 7.3-7.4, 8.33. Anal. Calcd for C19H15NO: C, 83.49; H, 5.53; N, 5.12. Found: C, 82.35; H, 5.51; N, 5.06.

reactant | 9-Benzyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 14.13 mmol, 3.89 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(CCCC12)=O | C19H17NO
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | LiBr | 31 mmol, 2.67 g | [Li+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 9-Benzyl-9H-carbazol-4-ol | 2.78 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)O | C19H15NO
